US07022707B2
Piperazine-1-carboxylic acid 3-(2-phenylethoxy)-benzyl ester hydrochloride:
4M HCl in 1,4-dioxane (2.3 mL, 9.2 mmol) was added to a solution of piperazine-1,4-dicarboxylic acid 3-(2-phenylethoxy)benzyl ester tert-butyl ester (0.10 g, 0.23 mmol) in methanol (2 mL) and ether (2 mL) and the solution was left to stand with occasional swirling at room temperature for 3 h. The solution was concentrated in vacuo and the residue was triturated with ether to yield the title compound (0.08 g, 93%) as a white solid. 1H-NMR (400 MHz, d6-DMSO): 3.03 (2H, t, J=6.8 Hz), 3.08 (4H, m), 3.61 (4H, m), 4.19 (2H, t, J=7.0 Hz), 5.06 (2H, s), 6.88–6.94 (3H, m), 7.20–7.33 (6H, m) and 9.19 (2H, br s).

reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 9.2 mmol, 2.3 mL | O1CCOCC1 | C4H8O2
reactant | piperazine-1,4-dicarboxylic acid 3-(2-phenylethoxy)benzyl ester tert-butyl ester | 0.23 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCC1=CC(=CC=C1)OCCC1=CC=CC=C1 | C25H32N2O5
solvent | methanol | 2 mL | CO | CH4O
solvent | ether | 2 mL | CCOCC | C4H10O
product | Piperazine-1-carboxylic acid 3-(2-phenylethoxy)-benzyl ester hydrochloride | 0.08 g, 93% | Cl.C1(=CC=CC=C1)CCOC=1C=C(COC(=O)N2CCNCC2)C=CC1 | InChI=1S/C20H24N2O3.ClH/c23-20(22-12-10-21-11-13-22)25-16-18-7-4-8-19(15-18)24-14-9-17-5-2-1-3-6-17;/h1-8,15,21H,9-14,16H2;1H
